US05026851
Diethyl N-(4-[2-(2-acetamido-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)prop-1-enyl]benzoyl)-L-glutamate
To a solution of 0.2 g of 2-acetamido-4-hydroxy-6-[2-(4-carboxyphenyl)prop-1-enyl]pyrido[2,3-d]pyrimidine in 50 mL of N-methylpyrrolidinone containing 0.18 g of N-methylmorpholine was added 0.22 g of phenyl N-phenylphosphoramidochloridate in a single portion. After stirring the mixture at room temperature for 1 hour, 0.20 g of diethyl L-glutamate was added. The reaction mixture was stirred overnight, the solvent was removed under reduced pressure and the residue was triturated with chloroform. The mixture was filtered and the filtrate was evaporated under reduced pressure. The residue was subjected to preparative thin layer chromatography on silica gel using a 5% methanol in chloroform mixture as the eluent. This gave 74.6 mg (25%) of the title compound as a pale yellowish solid; NMR (CDCl3, 250 MHz) d 1.22(t, 3H, J=7.1 Hz), 1.30(t, 3H J=7.1 Hz), 2.11-2.57(m, 10H), 4.14(q, 2H, J=7.1 Hz), 4.24(q, 2H, J=7.1 Hz), 4.75-4.83(m, 1H), 6.86(brs, 1H), 7.18(brs, 1H), 7.57(d, 2H, J= 8.42 Hz), 7.84(d, 2H, J=8.42 Hz), 8.50(d, 1H, J=2.01 Hz), 8.96(brs, 1H), 10.34(brs, 1H).

reactant | 2-acetamido-4-hydroxy-6-[2-(4-carboxyphenyl)prop-1-enyl]pyrido[2,3-d]pyrimidine | 0.2 g | C(C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C=C(C)C2=CC=C(C=C2)C(=O)O)O | C19H16N4O4
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | phenyl N-phenylphosphoramidochloridate | 0.22 g | C1(=CC=CC=C1)NP(OC1=CC=CC=C1)(=O)Cl | C12H11ClNO2P
reactant | diethyl L-glutamate | 0.20 g | N[C@@H](CCC(=O)OCC)C(=O)OCC | C9H17NO4
solvent | N-methylpyrrolidinone | 50 mL, 0.18 g | CN1C(CCC1)=O | C5H9NO
product | Diethyl N-(4-[2-(2-acetamido-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)prop-1-enyl]benzoyl)-L-glutamate | C(C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C(=CC2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2)C)O | C28H31N5O7
